US07728018B2
(2-Chloro-benzenesulfonyl)-carbamic acid methyl ester
To 25.0 g 2-chloro-benzenesulfonamide was added 75 mL acetonitrile and 45.2 mL (2.5 eq) triethylamine. The mixture was cooled with an ice bath and 15.1 mL methyl chloroformate was slowly added dropwise. The mixture was stirred overnight at room temperature and concentrated in vacuo. Water was added and de aqueous layer was washed two times with ether. Acidification of the aqueous layer with 2 M HCl led to formation of a white precipitate. The suspension was filtered, the residue was washed with H2O and dried in vacuo to yield 19.1 g of a white solid. 1H NMR (400 MHz, DMSO-d6) δ 3.58 (s, 3H), 7.52-7.61 (m, 1H), 7.62-7.72 (m, 2H), 8.10 (dd, J=8 and 1.5 Hz, 1H), 12.42 (br s, 1H).

reactant | 2-chloro-benzenesulfonamide | 25.0 g | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | triethylamine | 45.2 mL, 2.5 eq | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 15.1 mL | ClC(=O)OC | C2H3ClO2
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | (2-Chloro-benzenesulfonyl)-carbamic acid methyl ester | 19.1 g | COC(NS(=O)(=O)C1=C(C=CC=C1)Cl)=O | C8H8ClNO4S
